US07696216B2
4-(4-Isopropyl-phenyl)-6-prop-2-ynyloxy-1-[(E)-2-(2,4,6-trimethyl-phenyl)-vinyl]-1H-quinazolin-2-one
A solution of 50 mg (0.104 mmol) 1-[2-hydroxy-2-(2,4,6-trimethyl-phenyl)-ethyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one and 34.3 μl (0.208 mmol) trifluoromethane sulphonic anhydride in 0.5 ml 1,2 dichloroethane is heated to 80° C. for 15 min. Extraction with dichloromethane/aqueous NaHCO3 followed by preparative reversed phase HPLC yielded the title compound.

reactant | 1-[2-hydroxy-2-(2,4,6-trimethyl-phenyl)-ethyl]-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | 0.104 mmol, 50 mg | OC(CN1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC=C(C=C1)C(C)C)=O)C1=C(C=C(C=C1C)C)C | C31H32N2O3
reactant | trifluoromethane sulphonic anhydride | 0.208 mmol, 34.3 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | 1,2 dichloroethane | 0.5 ml | ClCCCl | C2H4Cl2
product | 4-(4-Isopropyl-phenyl)-6-prop-2-ynyloxy-1-[(E)-2-(2,4,6-trimethyl-phenyl)-vinyl]-1H-quinazolin-2-one | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)\C=C\C1=C(C=C(C=C1C)C)C)=O | C31H30N2O2
